US06248765B1
Cyclopropylmethyl 3-(1H-imidazol-4-yl)propyl ether
5 mmol of 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol and 10 mmol of cyclopropylmethylsodium chloride are treated as described in Example 5. The title compound is crystallized in the form of hydrogen maleate from ethanol and diethyl ether.

reactant | 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | cyclopropylmethylsodium chloride | 10 mmol | [Cl-].C1(CC1)C[Na]
product | Cyclopropylmethyl 3-(1H-imidazol-4-yl)propyl ether | N1C=NC(=C1)CCCOCC1CC1 | C10H16N2O
